US08058299B2
2-Phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-piperazin-1-yl-phenyl)-amide, hydrochloride (51.5 mg, 0.113 mmol), adamantane-1,3-dicarboxylic acid (51 mg, 0.227 mmol), and triethylamine (48 uL, 0.341 mmol) were dissolved in 1 mL of DMF. To this solution was added BOP (52 mg, 0.122 mmol) in one portion. The mixture was stirred at room temperature overnight. 4-N,N-dimethylamino-pyridine (5 mg) was added and the reaction was stirred for an additional 72 hours and then diluted with 30 ml ethyl acetate. The organic phase was washed with saturated ammonium chloride (1×5 mL), 2.5% KHSO4 (3×5 mL), water (2×5 mL) and saturated sodium chloride. The organic layer was dried over MgSO4, filtered, passed through a plug of silica gel and evaporated to dryness under vacuum to a light brown solid. The residue was purified by flash chromatography to yield 3-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperazine-1-carbonyl)-adamantane-1-carboxylic acid as light yellow crystals (9.4 mg, 13%). ES-MS calcd for C33H33F3N4O5 (m/e) 622.65, obsd 623 (M+H).

reactant | 2-Phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-piperazin-1-yl-phenyl)-amide, hydrochloride | 0.113 mmol, 51.5 mg | Cl.N1(CCNCC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1
reactant | adamantane-1,3-dicarboxylic acid | 0.227 mmol, 51 mg | C12(CC3(CC(CC(C1)C3)C2)C(=O)O)C(=O)O | C12H16O4
reactant | triethylamine | 0.341 mmol, 48 uL | C(C)N(CC)CC | C6H15N
reactant | BOP | 0.122 mmol, 52 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 3-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperazine-1-carbonyl)-adamantane-1-carboxylic acid | 9.4 mg, 13% | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)NC1=CC=C(C=C1)N1CCN(CC1)C(=O)C12CC3(CC(CC(C1)C3)C2)C(=O)O)C(F)(F)F | C33H33F3N4O5
